US07067540B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-[5-(5-hydroxyisoxazol-3-yl)-2-methylphenyl]-6-methylpyridin-2(1H)-one
A solution of ethyl 3-{3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylphenyl}-3-oxopropanoate (0.20 g, 0.37 mmol), triethylamine (0.06 mL, 0.41 mmol), and hydroxylamine hydrochloride (0.03 g, 0.41 mmol) in EtOH (3.00 mL) was heated overnight at 60° C. with a condenser. Additional triethylamine (0.06 mL) and hydroxylamine hydrochloride (0.03 g) were added. After 2.5 h, the additions of triethylamine and hydroxylamine hydrochloride were repeated. After 1 h, the reaction was concentrated and purified by preparatory HPLC. The product was isolated by freeze-drying and evaporation of the solvent to give a white solid. Dissolved solid in DCM. Upon addition of 5% NaHCO3, solution became a milky emulsion. Added additional DCM and some brine. Organic extracts were dried over Na2SO4, filtered, and concentrated to a pink solid, dried in vacuo (120 mg, 64%). 1H NMR (CD3OD/400 MHz) δ 7.66 (m, 2H), 7.44 (m, 2H), 7.04 (t, 2H, J=8.8 Hz), 6.64 (s, 1H), 5.36 (s, 2H), 2.04 (s, 3H), 2.01 (s, 3H). ES HRMS m/z 503.0415 and 505.0402 (M+H calculated for C23H18BrF2N2O4 requires 503.0413 and 505.0395).

reactant | ethyl 3-{3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylphenyl}-3-oxopropanoate | 0.37 mmol, 0.20 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(C=CC1C)C(CC(=O)OCC)=O)=O | C25H22BrF2NO5
reactant | triethylamine | 0.41 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 0.41 mmol, 0.03 g | Cl.NO
reactant | triethylamine | 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 0.03 g | Cl.NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 3.00 mL | CCO | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-[5-(5-hydroxyisoxazol-3-yl)-2-methylphenyl]-6-methylpyridin-2(1H)-one | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=CC(=C1)C1=NOC(=C1)O)C)=O | C23H17BrF2N2O4
